US08110588B2
3-(2-Fluoro-4-trifluoromethyl-phenyl)-5-(4-[1,3,4]oxadiazol-2-yl-phenyl)-3H-[1,2,3]triazol-4-ylamine (10)
To a stirred and ice-cooled solution of sodium methoxide (0.158 g, 2.9252 mmol) in methanol (25 ml), commercial 2-[4-(1,3,4-oxadiazol-2-yl)phenyl]acetonitrile (0.430 g, 2.3401 mmol) and 1-azido-2-fluoro-4-trifluoromethyl-benzene (0.400 g, 1.9501 mmol) are added under a nitrogen atmosphere. The reaction mixture is kept at 0° C. for 1 h, and then allowed to attain spontaneously room temperature overnight. The reaction mixture is concentrated, added water (30 ml), and extracted with ethylacetate (3×100 ml). The combined organic layers are dried over MgSO4, filtered and evaporated, to afford a pink solid (0.74 g, 97% mass balance). The crude residue is purified by column chromatography over silica gel (230-400 mesh), eluting with 50% ethylacetate in petroleum ether, to obtain the title compound as a yellow solid (0.280 g, 37% yield). M.p. 184.6-186.1° C. LC-ESI-HRMS of [M+H]+ shows 391.0927 Da. Calc. 391.093046 Da, dev. −0.9 ppm.

reactant | sodium methoxide | 2.9252 mmol, 0.158 g | C[O-].[Na+]
reactant | 2-[4-(1,3,4-oxadiazol-2-yl)phenyl]acetonitrile | 2.3401 mmol, 0.430 g | O1C(=NN=C1)C1=CC=C(C=C1)CC#N | C10H7N3O
reactant | 1-azido-2-fluoro-4-trifluoromethyl-benzene | 1.9501 mmol, 0.400 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C(F)(F)F)F | C7H3F4N3
solvent | methanol | 25 ml | CO | CH4O
product | 3-(2-Fluoro-4-trifluoromethyl-phenyl)-5-(4-[1,3,4]oxadiazol-2-yl-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.280 g, 37% yield | FC1=C(C=CC(=C1)C(F)(F)F)N1N=NC(=C1N)C1=CC=C(C=C1)C=1OC=NN1 | C17H10F4N6O
